US06656935B2
To a suspension of lithium aluminum hydride (4.15 g) in tetrahydrofuran (150 ml) is added a solution of 2-methylthio-4-(3-chloro-4-methoxybenzylamino)-5-ethoxycarbonylpyrimidine (38.32 g) in tetrahydrofuran (100 ml) under ice-cooling at 5° C. to 10° C. over a period of one hour. After the addition, the ice bath is removed, and the reaction mixture is stirred at room temperature for one hour. To the reaction mixture is added water (4.15 ml) under ice-cooling, and thereto is further added 3N aqueous sodium hydroxide solution (4.15 ml). To the mixture is added water (4.15 ml) three times, and the mixture is stirred at room temperature for one hour. The reaction mixture is treated with magnesium sulfate, and the solid precipitates obtained are filtered. The precipitates are washed with tetrahydrofuran. The filtrate and the washings are combined, and concentrated under reduced pressure, and triturated with a mixture of ethyl acetate and isopropyl ether. The resulting crystals are collected by filtration, and washed well with isopropyl ether to give 2-methylthio-4-(3-chloro-4-methoxybenzylamino)-5-hydroxymethylpyrimidine as pale yellow crystalline powder.

reactant | lithium aluminum hydride | 4.15 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-methylthio-4-(3-chloro-4-methoxybenzylamino)-5-ethoxycarbonylpyrimidine | 38.32 g | CSC1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(=O)OCC | C16H18ClN3O3S
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-methylthio-4-(3-chloro-4-methoxybenzylamino)-5-hydroxymethylpyrimidine | CSC1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)CO | C14H16ClN3O2S
